US07265246B2
Prepare a solution of 5-methyl-2-phenyloxazole (790 mg, 4.97 mmol) in CCl4 (70 mL) under nitrogen. Add N-bromosuccinimide (884 mg, 4.97 mmol) and a catalytic amount of benzoyl peroxide. Reflux the mixture for 2 hours, cool to room temperature, and stir overnight. Wash the reaction mixture with a saturated solution of Na2SO3 (75 mL) followed by saturated sodium hydrogencarbonate (100 mL). Dry the organic phase (magnesium sulfate), filter, and concentrate to afford 1.17 g of 5-bromomethyl-2-phenyloxazole as a white solid. MS: m/e=238 (MH+)

reactant | 5-methyl-2-phenyloxazole | 4.97 mmol, 790 mg | CC1=CN=C(O1)C1=CC=CC=C1 | C10H9NO
reactant | N-bromosuccinimide | 4.97 mmol, 884 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-2-phenyloxazole | 1.17 g | BrCC1=CN=C(O1)C1=CC=CC=C1 | C10H8BrNO
